US08580972B2
A mixture of 3 g (9.4 mmol) of 3-[2-(4-chlorophenoxy)phenyl]-4-hydroxy-1-methylpyrrolidine-2-one (compound XIIIb) and 40 g of polyphosphoric acid was stirred overnight at 110° C. After cooling down to room temperature, the resulting mixture was poured into 150 mL of an ice-water mixture. 100 mL of dichloromethane were added, and the organic phase was extracted. The aqueous phase was washed with 50 mL of dichloromethane. The organic phases were combined, washed with brine, and evaporated under vacuum. The crude product was purified by column chromatography to obtain 0.5 g of cis-5-chloro-2,3,3a,12b-tetrahydro-2-methyl-1H-dibenz[2,3:6,7]oxepino[4,5-c]pyrrol-1-one (compound cis-VIb). Yield: 17.7%.

reactant | 3-[2-(4-chlorophenoxy)phenyl]-4-hydroxy-1-methylpyrrolidine-2-one | 9.4 mmol, 3 g | ClC1=CC=C(OC2=C(C=CC=C2)C2C(N(CC2O)C)=O)C=C1 | C17H16ClNO3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | cis-5-chloro-2,3,3a,12b-tetrahydro-2-methyl-1H-dibenz[2,3:6,7]oxepino[4,5-c]pyrrol-1-one | 0.5 g, Yield: 17.7% | ClC=1C=CC2=C([C@@H]3[C@@H](C(N(C3)C)=O)C3=C(O2)C=CC=C3)C1 | C17H14ClNO2
